US08735586B2
1-(2-Methoxy-phenyl)-2-methyl-1H-benzoimidazole
The title compound was prepared with the analogous procedure described in example 1 using 1-Iodo-2-nitrobenzene (124 mg, 0.5 mmol) and N-(2-methoxyphenyl)-acetamide (99 mg, 0.6 mmol) as starting materials to yield the title compound as a yellow solid (60 mg, 50%). 1H NMR (DMSO) δ 2.29 (s, 3 H), 3.73 (s, 3 H), 6.88 (d, J=8.1 Hz, 1 H), 7.08-7.18 (m, 3 H), 7.31 (d, J=7.6 Hz, 1 H), 7.41 (d, J=7.9 Hz, 1 H), 7.54-7.58 (m, 2 H); 13C NMR δ 13.5, 55.6, 109.6, 112.9, 118.2, 121.0, 121.5, 121.9, 123.5, 129.0, 130.7, 136.2, 142.4, 151.9, 154.6.

reactant | 1-Iodo-2-nitrobenzene | 0.5 mmol, 124 mg | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | N-(2-methoxyphenyl)-acetamide | 0.6 mmol, 99 mg | COC1=C(C=CC=C1)NC(C)=O | C9H11NO2
product | 1-(2-Methoxy-phenyl)-2-methyl-1H-benzoimidazole | 60 mg, 50% | COC1=C(C=CC=C1)N1C(=NC2=C1C=CC=C2)C | C15H14N2O
